US06211197B1
Step 2 Ethyl(E)-3-(2-((3-phenoxy)benzyloxy)phenyl)-2-propenoate
To a solution of 3-phenoxybenzylalcohol (545 mg; 2.72 mmol) in DMF (5 ml) was added NaH (92 mg; 3.1 mmol; 80% dispersion in oil) and ethyl(E)-3-(2-(bromomethyl)phenyl)-2-propenoate (810 mg; 3.0 mmol). After 6 h at r.t., 20 mg extra NaH was added. The final mixture was stirred at r.t. for 10 h then quenched using 0.3 ml of AcOH. The mixture was diluted with Et2O (25 ml), washed with water (3×20 ml) and brine, dried over MgSO4 and concentrated. Flash chromatography with EtOAc:toluene 5:95 afforded the desired material.

reactant | 3-phenoxybenzylalcohol | 2.72 mmol, 545 mg | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C13H12O2
reactant | NaH | 3.1 mmol, 92 mg | [H-].[Na+]
reactant | ethyl(E)-3-(2-(bromomethyl)phenyl)-2-propenoate | 3.0 mmol, 810 mg | BrCC1=C(C=CC=C1)/C=C/C(=O)OCC | C12H13BrO2
reactant | NaH | 20 mg | [H-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Ethyl(E)-3-(2-((3-phenoxy)benzyloxy)phenyl)-2-propenoate | O(C1=CC=CC=C1)C=1C=C(COC2=C(C=CC=C2)/C=C/C(=O)OCC)C=CC1 | C24H22O4
